US07230031B2
4-(4-Methoxyphenoxy)-5-methyl-7-nitroindane
To a stirred suspension of 5-methyl-7-nitroindan-4-ol (6 g), bis(4-methoxyphenyl)iodonium tetrafluoroborate (17 g), and copper bronze (2 g) in dichloromethane (150 mL) was added triethylamine (5.6 mL) at room temperature. The mixture was stirred at room temperature for 5 days. The insoluble material was removed by filtration. The filtrate was evaporated under reduced pressure to dryness. The residue was purified by column chromatography on silicagel (eluent: hexane/ethyl acetate) to give the title compound (7.3 g).

reactant | 5-methyl-7-nitroindan-4-ol | 6 g | CC1=C(C=2CCCC2C(=C1)[N+](=O)[O-])O | C10H11NO3
reactant | bis(4-methoxyphenyl)iodonium tetrafluoroborate | 17 g | F[B-](F)(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
reactant | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | copper bronze | 2 g | [Cu] | Cu
product | 4-(4-Methoxyphenoxy)-5-methyl-7-nitroindane | 7.3 g | COC1=CC=C(OC2=C3CCCC3=C(C=C2C)[N+](=O)[O-])C=C1 | C17H17NO4
